US05594016
Synthesis of 6-(2-pyridyl)-methyloxy-2-acetylnaphthalene
To a solution of 6-hydroxy-2-acetylnaphthalene (1.04 g) in DMF (20 ml) were added sodium hydride (60%, 0.65 g) and 2-picolyl chloride hydrochloride (1.28 g) under ice-cooling and the resultant-mixture was stirred at room temperature for 12 hours. The reaction mixture was partitioned between toluene and water. The organic layer was washed with a saturated saline solution and dried over anhydrous magnesium sulfate. After concentration in vacuo, the residue was subjected to column chromatography on silica gel eluting with ethyl acetate/hexane to obtain the title compound (1.17 g, yield =75.5%). The NMR spectrum is as follows.

reactant | 6-hydroxy-2-acetylnaphthalene | 1.04 g | OC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H10O2
reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | 2-picolyl chloride hydrochloride | 1.28 g | Cl.N1=C(C=CC=C1)CCl
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-(2-pyridyl)-methyloxy-2-acetylnaphthalene | 1.17 g, 75.5% | N1=C(C=CC=C1)C=1C=C2C=CC(=C(C2=CC1)OC)C(C)=O | C18H15NO2
